US06140349
Step B: 2-Phenyl-2-(2-(trimethylsilyl)ethoxymethyl)pent-4-enal
A solution of 2-phenyl-2-(2-(trimethylsilyl)ethoxymethyl)-pent-4-enenitrile (354 mg, 1.23 mmol) in ethyl ether (1.0 mL) was cooled in an ice bath and a 1.5 M solution of diisobutylaluminum hydride in toluene (1.25 mL, 1.88 mmol) was added. After 2.5 h, ethyl acetate (0.30 mL, 270 mg, 3.1 mmol) was added and the mixture was transferred to a stirred mixture of 30 mL of ethyl ether and 10 mL of 2 N aqueous HCl at 0° C. After 10 min, the layers were separated and the aqueous layer was stirred for 0.5 h with another 30 mL of ethyl ether. The two organic layers were washed in succession with 10 mL each of 2 N aqueous HCl, saturated aqueous sodium bicarbonate, and brine. The combined organic layers were dried over sodium sulfate and evaporated. The residue was dissolved in 5.0 mL of THF and 0.7 mL of water was added followed by 1.0 g of silica gel. After stirring for 40 min at RT, the mixture was filtered and the silica gel was washed with additional THF. The filtrate was evaporated and the residue was purified by flash column chromatography on silica gel, eluting with 2% ethyl ether in hexane, to give 140 mg of the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3): δ 9.56 (s, 1H), 7.35 (t, 2H, J=7 Hz), 7.26 (t, 1H, J=7 Hz), 7.16 (d, 2H, J=7 Hz), 5.47 (ddt, 1H, J=17, 10, 7 Hz), 5.06-4.96 (m, 2H), 3.98 (d, 1H, J=9 Hz), 3.80 (d, 1H, J=9 Hz), 3.58-3.47 (m, 2H), 2.73 (d, 2H, J=7 Hz), 0.88 (t, 2H, J=8 Hz), -0.03 (s, 9 H). Mass spectrum (CI): m/z=263 (M-27, 100%).

reactant | 2-phenyl-2-(2-(trimethylsilyl)ethoxymethyl)-pent-4-enenitrile | 1.23 mmol, 354 mg | C1(=CC=CC=C1)C(C#N)(CC=C)COCC[Si](C)(C)C | C17H25NOSi
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 1.88 mmol, 1.25 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | 3.1 mmol, 0.30 mL, 270 mg | C(C)(=O)OCC | C4H8O2
reactant | HCl | 2 N, 10 mL | Cl | ClH
solvent | ethyl ether | 1.0 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 30 mL | C(C)OCC | C4H10O
product | 2-Phenyl-2-(2-(trimethylsilyl)ethoxymethyl)pent-4-enal | 140 mg | C1(=CC=CC=C1)C(C=O)(CC=C)COCC[Si](C)(C)C | C17H26O2Si
